US08283315B2
C) Preparation of Fmoc-Trp(2-Nps)-OH
To a solution of 2.0 g (4.7 mmole) Fmoc-L-tryptophan in 12 ml dioxane, 0.87 g (4.6 mmole) of 2-nitrophenyl-sulfenylchloride (2-Nps-Cl) in 25 ml dioxane was added under stirring at room temperature. After standing for 3 days, 50 ml ethyl ether was added to the reaction mixture and the solvent was evaporated. The product was purified by chromatography on silica gel in solvent A (Solvent A=Chloroform:Ethanol:Neptane—1:1:1). Rf 0.43. After purification the product was obtained as a yellow-brown crystalline compound. The yield was 2.5 g (89%). HPLC (C18): tR 8.3 min, 85-100% B in 20 min. (A: H2O+0.1% TFA; B: CH3CN+0.1% TFA).

reactant | Fmoc-L-tryptophan | 4.7 mmole, 2.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C26H22N2O4
reactant | 2-nitrophenyl-sulfenylchloride | 4.6 mmole, 0.87 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | H2O | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | CH3CN | CC#N | C2H3N
product | Fmoc-Trp(2-Nps)-OH | N([C@@H](CC1=C(NC2=CC=CC=C12)SC1=CC=CC=C1[N+](=O)[O-])C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C32H25N3O6S
